US08377911B2
Step A: {1-[(E)-1-butoxy-NNO-azoxy]piperidin-4-yl}methanol
A suspension of sodium (2S)-2-(hydroxymethyl)-1-[(Z)-oxido-NNO-azoxy]piperidine (1.04 g, 5.27 mmol) and 1-bromobutane (681 μL, 6.33 mmol) in DMF (5 mL) was stirred at 100° C. for 30 min in a microwave reactor. After cooling to rt, the mixture was partitioned between Et2O (50 mL) and brine (50 mL). The organic layer was separated and washed with brine (2×50 mL), dried over MgSO4 and concentrated. The residue was purified by flash chromatography (Biotage 40+M) using 40-50% EtOAc in hexanes gradient, affording the title product: 1H NMR (500 MHz, CDCl3) δ 4.23 (t, 6.9 Hz, 2H), 3.82-3.78 (m, 2H), 3.53 (d, J=6.4, Hz, 2H), 2.95 (dt, J=2.5, 11.9 Hz, 2H), 1.90 (d, J=7.1 Hz, 2H), 1.77-1.71 (m, 2H), 1.65 (m, 2H), 1.50-1.40 (m, 4H), 0.94 (t, J=7.5 Hz, 3H).

reactant | sodium (2S)-2-(hydroxymethyl)-1-[(Z)-oxido-NNO-azoxy]piperidine | 5.27 mmol, 1.04 g | OC[C@H]1N(CCCC1)/[N+](=N/[O-])/[O-].[Na+]
reactant | 1-bromobutane | 6.33 mmol, 681 μL | BrCCCC | C4H9Br
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | {1-[(E)-1-butoxy-NNO-azoxy]piperidin-4-yl}methanol | C(CCC)O\N=[N+](\[O-])/N1CCC(CC1)CO | C10H21N3O3
